* Extracted by KLayout with SKY130 LVS runset on : 29/05/2026 00:48

* cell 3_nand1X
* pin VDD!
* pin Y
* pin C
* pin B
* pin A
* pin VSS!
.SUBCKT 3_nand1X VDD! Y C B A VSS!
* device instance $1 r0 *1 0.66,3.865 sky130_fd_pr__pfet_01v8
XM$1 VDD! A Y VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1260000 AS=283500000000
+ AD=189000000000 PS=2790000 PD=1860000
* device instance $3 r0 *1 1.56,3.865 sky130_fd_pr__pfet_01v8
XM$3 VDD! B Y VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1260000 AS=189000000000
+ AD=189000000000 PS=1860000 PD=1860000
* device instance $5 r0 *1 2.46,3.865 sky130_fd_pr__pfet_01v8
XM$5 VDD! C Y VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1260000 AS=189000000000
+ AD=283500000000 PS=1860000 PD=2790000
* device instance $7 r0 *1 1.335,1.43 sky130_fd_pr__nfet_01v8
XM$7 Y A \$14 VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=126000000000
+ AD=63000000000 PS=1440000 PD=720000
* device instance $8 r0 *1 1.785,1.43 sky130_fd_pr__nfet_01v8
XM$8 \$14 B \$13 VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=63000000000
+ AD=63000000000 PS=720000 PD=720000
* device instance $9 r0 *1 2.235,1.43 sky130_fd_pr__nfet_01v8
XM$9 \$13 C VSS! VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=63000000000
+ AD=126000000000 PS=720000 PD=1440000
.ENDS 3_nand1X
